US05308837
Step D: 2,2-Difluoro-3-Tetrahydropyranyloxypropyl Trifluoromethanesulfonate
Triflic anhydride (1.8 ml, 11 mmol) was added to a cold (0° C.) solution of 2,2-difluoro-3-tetrahydropyranyloxy-1-propanol 91.6 g, 10 mmol), pyridine (0.9 ml, 11 mmol) in anhydrous dichloromethane (50 ml). The mixture was stirred 1 h at 0° C. and, after usual work-up, the product was purified by flash chromatography on silica gel (ethyl acetate:hexane; 15:85) (2.6 g, 80%).

reactant | Triflic anhydride | 11 mmol, 1.8 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2,2-difluoro-3-tetrahydropyranyloxy-1-propanol | 10 mmol, 91.6 g | FC(CO)(COC1OCCCC1)F | C8H14F2O3
reactant | pyridine | 11 mmol, 0.9 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,2-Difluoro-3-Tetrahydropyranyloxypropyl Trifluoromethanesulfonate | FC(S(=O)(=O)OCC(COC1OCCCC1)(F)F)(F)F | C9H13F5O5S
